US04666916
Eleven grams 2H-[1]benzopyran-4-one are dissolved in 33 ml 2.5M trimethylsilyl cyanide (CH2Cl2). After addition of 50 mg Znl2, the mixture is stirred 12 h. Then 30 ml toluene, 115 ml pyridine and 21 ml POCl3 are added and the mixture refluxed for 4 h. On cooling, it is poured into 1000 ml 5% HCl and extracted with four 100 ml portions of ether. The extracts dried over Na2SO4, filtered, concentrated under reduced pressure and vacuum distilled (bulb-to-bulb, oven temperature 150°) to yield 4-cyano-2H[1]benzopyran.

reactant | 2H-[1]benzopyran-4-one | Eleven grams | O1CCC(C2=C1C=CC=C2)=O | C9H8O2
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | POCl3 | 21 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 1000 ml | Cl | ClH
reactant | trimethylsilyl cyanide | 2.5M, 33 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | pyridine | 115 ml | N1=CC=CC=C1 | C5H5N
product | 4-cyano-2H[1]benzopyran | C(#N)C1=CCOC2=C1C=CC=C2 | C10H7NO
